US05935974
Preparation of 4-[bis-(4-fluorophenyl)-methylene]-piperidine hydrochloride salt
α,α-Bis-(4-fluorophenyl)-1-(triphenylmethyl)-4-piperidinemethanol (67 g; 0.123 mol) was dissolved in hydrochloric acid (1 l; 2 mol/l) and the solution was heated under reflux for 2 h. The solution was cooled, the precipitated solid was collected by filtration and suspended in anhydrous diethyl ether. The mixture was stirred for 1 h, filtered and the solid was crystallised from methanol/ether to give the product (28.3 g) as white crystals; m.p. 83° C.

reactant | α,α-Bis-(4-fluorophenyl)-1-(triphenylmethyl)-4-piperidinemethanol | 0.123 mol, 67 g | FC1=CC=C(C=C1)C(O)(C1CCN(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)F | C37H33F2NO
reactant | hydrochloric acid | 2 mol/l, 1 l | Cl | ClH
product | 4-[bis-(4-fluorophenyl)-methylene]-piperidine hydrochloride salt | 28.3 g | Cl.FC1=CC=C(C=C1)C(=C1CCNCC1)C1=CC=C(C=C1)F | InChI=1S/C18H17F2N.ClH/c19-16-5-1-13(2-6-16)18(15-9-11-21-12-10-15)14-3-7-17(20)8-4-14;/h1-8,21H,9-12H2;1H
